US07291631B2
Using General Procedure B: Reaction of 1-Pyridin-2-yl-ethylamine and 1-Boc-4-piperidone with NaBH(OAc)3 in CH2Cl2 gave 4-(1-Pyridin-2-yl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil.

reactant | 1-Pyridin-2-yl-ethylamine | N1=C(C=CC=C1)C(C)N | C7H10N2
reactant | 1-Boc-4-piperidone | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1-Pyridin-2-yl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C)C1=NC=CC=C1 | C17H27N3O2
